US05643932
5.23 g of imidazole and 4.85 g of tertbutyldimethylchlorosilane were added, in this order, to a suspension of 4.02 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxyphenyl)thiazole in 60 ml of dimethylformamide at room temperature. The mixture was stirred at the same temperature for 4 hours. To the reaction mixture were added 100 ml of ice water and 200 ml of ethyl acetate. The organic layer was separated, washed with 100 ml of water and 50 ml of a saturated aqueous sodium chloride solution in this order, dried over anhydrous magnesium sulfate and subjected to distillation to remove the solvent. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate =10/1) to obtain 5.14 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-tertbutyldimethylsilyloxyphenyl)thiazole.

reactant | imidazole | 5.23 g | N1C=NC=C1 | C3H4N2
reactant | tertbutyldimethylchlorosilane | 4.85 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxyphenyl)thiazole | 4.02 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)O)C(=O)OC | C21H21NO5S
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-tertbutyldimethylsilyloxyphenyl)thiazole | 5.14 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=C(C(=C(C=C1)C(C)(C)C)C(=O)OC)O[SiH](C)C | C27H35NO5SSi
